### PR TITLE
[Merged by Bors] - feat(Polynomial/Chebyshev): Differential equations for T and U

### PR DESCRIPTION
**Pull request by YuvalFilmus**
Added the defining differential equations for T and U.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 1]
```diff
@@ -801,6 +807,34 @@ theorem add_one_mul_T_eq_poly_in_U (n : ℤ) :
...
+
+theorem one_sub_X_sq_mul_derivative_derivative_U_eq_poly_in_U (n : ℤ) :
+    (1 - X ^ 2) * derivative^[2] (U R n) =
+      3 * X * derivative (U R n) - ((n + 2) * n : R[X]) * U R n := by
+  have h := congr_arg derivative <| add_one_mul_T_eq_poly_in_U (R := R) n
+  simp only [derivative_add, derivative_sub, derivative_mul, derivative_X, derivative_one,
+    derivative_X_pow, derivative_intCast, C_eq_natCast, T_derivative_eq_U] at h
+  rw [Function.iterate_succ, Function.iterate_one, Function.comp_apply]
+  linear_combination (norm := (push_cast; ring_nf))
+    h
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]:
```suggestion
  linear_combination (norm := (push_cast; ring_nf)) h
```
I personally find this line break a bit weird but if you are attached to this style I don't particular want to block this PR because of it.

Comment (erdOne) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean]: (and the other ones)

**Review by erdOne — COMMENTED** [review]
Other than the weird line break,
Thanks!
maintainer delegate

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 1 above)
Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean]: The version without the line break definitely looks better to me — I just copied the style in the rest of the file.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
